6-line coupled multiconductor with ECL drivers
vemm mm 0 DC -0.4
vepp pp 0 DC 0.4
vein_left  lin  0 PULSE (-0.4 0.4 0N 1N 1N 7N 200N)
vein_right rin  0 PULSE (-0.4 0.4 2N 1N 1N 7N 200N)

* upper 2 lines
x1 lin 0 1 1outn  ECL
x2 mm 0 2 2outn   ECL
x7 7 0 7r 7routn  ECL
x8 8 0 8r 8routn  ECL

c7r 7r 0 0.1P
c8r 8r 0 0.1P

* lower 2 lines
x11 pp 0 11 11outn  ECL
x12 rin 0 12 12outn  ECL
x5  5 0 5l 5loutn  ECL
x6  6 0 6l 6loutn ECL

c5l 5l 0 0.1P
c6l 6l 0 0.1P

p1 1 2 3 4 5 6  0  7 8 9 10 11 12  0  pline

.model pline cpl
+C = 0.900000P  -0.657947P -0.0767356P -0.0536544P -0.0386514P -0.0523990P
+                1.388730P -0.607034P  -0.0597635P -0.0258851P -0.0273442P
+                             1.39328P  -0.625675P -0.0425551P -0.0319791P
+                                         1.07821P  -0.255048P -0.0715824P
+                                                     1.06882P  -0.692091P
+                                                                0.900000P
+L = 0.868493E-7 0.781712E-7 0.748428E-7 0.728358E-7 0.700915E-7 0.692178E-7
+                0.866074E-7 0.780613E-7 0.748122E-7 0.711591E-7 0.701023E-7
+                            0.865789E-7 0.781095E-7 0.725431E-7 0.711986E-7
+                                        0.867480E-7 0.744242E-7 0.725826E-7
+                                                    0.868022E-7 0.782377E-7
+                                                                0.868437E-7
+R = 0.2  0    0    0    0    0
+         0.2  0    0    0    0
+              0.2  0    0    0
+                   0.2  0    0
+                        0.2  0
+                             0.2
+G = 0  0  0  0  0  0  0  0  0  0  0  0  0  0  0  0  0  0  0  0  0
+
+length = 2

*XXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXXX
.MODEL JCTRAN NPN BF=150 VAF=20 IS=4E-17 RB=300 RC=100 CJE=30F CJC=30F
+               CJS=40F VJE=0.6 VJC=0.6 VJS=0.6 MJE=0.5 MJC=0.5
+               MJS=0.5 TF=16P TR=1N

.SUBCKT ECL EIN GND 9 8
*    Input-GND-OUTP-OUTN
RIN  1 2   0.077K
REF  5 6   0.077K
R1   7 N   1.0K
R2   P 3   0.4555K
R3   P 4   0.4555K
R4   8 N   0.615K
R5   9 N   0.615K
RL1  8 GND 0.093K
RL2  9 GND 0.093K
LIN  EIN 1 0.01U
LREF 5 GND 0.01U
CIN  1 GND 0.68P
CL1  8 GND 1P
CL2  9 GND 1P
Q1 3 2 7 JCTRAN
Q2 4 6 7 JCTRAN
Q3 P 3 8 JCTRAN
Q4 P 4 9 JCTRAN
VEP  P GND DC 1.25
VEN  N GND DC -3
.ENDS ECL

.control
repeat 10
TRAN 0.1N 20N
plot V(3) V(5) V(8) V(11) V(12)
TRAN 0.1N 20N
plot V(3) V(5) V(8) V(11) V(12)
TRAN 0.1N 20N
plot V(3) V(5) V(8) V(11) V(12)
end
quit
.endc

.END
